US09169245B2
3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-((phenylamino)methyl)benzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (120 mg, 0.161 mmol) was dissolved in Pyridine (1 ml, 12.36 mmol). (R)-quinuclidin-3-yl carbonochloridate (76 mg, 0.403 mmol) was added under N2 atmosphere and at 0° C. The reaction was stirred at RT for two days to achieve completion. The reaction mixture was diluted with HCl 1N and the precipitate was filtered, washed with Water and purified by preparative HPLC to give 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-((phenyl(((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)benzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide formate salt (20 mg, 0.022 mmol, 13.82% yield).

reactant | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-((phenylamino)methyl)benzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.161 mmol, 120 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1C(C1=CC(=CC=C1)CNC1=CC=CC=C1)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C36H33Cl2F2N3O6S
reactant | Pyridine | 12.36 mmol, 1 ml | N1=CC=CC=C1 | C5H5N
reactant | (R)-quinuclidin-3-yl carbonochloridate | 0.403 mmol, 76 mg | C(O[C@H]1CN2CCC1CC2)(=O)Cl | C8H12ClNO2
solvent | HCl | 1N | Cl | ClH
product | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-((phenyl(((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)benzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide formate salt | 0.022 mmol, 20 mg, 13.82% yield | C(=O)O.ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1C(C1=CC(=CC=C1)CN(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)=O)C2=CC(=C(C=C2)OC(F)F)OCC2CC2)Cl)[O-] | InChI=1S/C44H44Cl2F2N4O8S.CH2O2/c45-34-23-50(56)24-35(46)33(34)21-37(30-11-12-36(59-43(47)48)38(20-30)57-26-27-9-10-27)58-42(54)41-51(17-18-61-41)40(53)31-6-4-5-28(19-31)22-52(32-7-2-1-3-8-32)44(55)60-39-25-49-15-13-29(39)14-16-49;2-1-3/h1-8,11-12,19-20,23-24,27,29,37,39,41,43H,9-10,13-18,21-22,25-26H2;1H,(H,2,3)/t37-,39-,41-;/m0./s1
